US07112697B1
n-Butyl Phenyl Sulfide (entry 1, Table 3):
The general procedure was used to convert iodobenzene and n-butyl sulfide to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (310 mg, 95% yield). 1H NMR (300 MHz, CDCl3) δ 7.26–7.09 (m, 5H; Hb, Hb′, Hc, Hc′, Hd), 2.88–2.82 (t, J=4.0, 2H; He), 1.60–1.46 (m, 2H; Hf), 1.42–1.30 (m, 2H; Hg), 0.88–0.82 (t, J=3.9, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 136.9 (C1), 128.7 (C3′, C3, C2, C2), 125.5 (C4), 33.1 (C5), 31.1 (C6), 21.9 (C7), 13.6 (C8). Anal. Calcd. for C10H14S: C, 72.23; H, 8.49; S, 19.28; Found C, 71.97; H, 8.67; S, 19.07.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | n-butyl sulfide | C(CCC)SCCCC | C8H18S
product | n-Butyl Phenyl Sulfide | C1(=CC=CC=C1)SCCCC | C10H14S
